US06911543B2
3,4-Dibromothiophene (12.5 ml, 113 mmol) is combined with CuCN (30.4 g, 339 mmol) in DMF (40 ml) in a dry flask under nitrogen utilizing an over-head stirrer. The reaction is allowed to reflux at 180° C. for 5 h. The dark mixture is then poured into a solution of FeCl3 (113.6 g, 700 mmol) in 1.7M HCl (200 ml) and heated at 65° C. for 0.5 h, again using the over-head stirrer. The reaction is cooled to rt and extracted with CH2Cl2 (7×300 ml). Each extract is washed individually with 200 ml each 6M HCl (2×), water, saturated NaHCO3, and water. The organics are then combined, dried over MgSO4, filtered, and concentrated, affording 10.49 g (69%) of 3,4-dicyanothiophene as a fluffy tan solid. HRMS (EI) calcd for C6H2N2S: 133.9939, found 133.9929 (M+).

reactant | 3,4-Dibromothiophene | 113 mmol, 12.5 ml | BrC1=CSC=C1Br | C4H2Br2S
reactant | CuCN | 339 mmol, 30.4 g | C(#N)[Cu]
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1.7M, 200 ml | Cl | ClH
product | 3,4-dicyanothiophene | 10.49 g, 69% | C(#N)C1=CSC=C1C#N | C6H2N2S
